US07868018B2
Step B: Preparation of N—{3-[7-(3-tert-butyl-ureido)-2-methylsulfanyl-pyrido[2,3-d]pyrimidin-6-yl]-2,4-dichloro-phenyl}-3-trifluoromethyl-benzamide
To a solution of N—[3-(7-amino-2-methylsulfanyl-pyrido[2,3-d]pyrimidin-6-yl)-2,4-dichloro-phenyl]-3-trifluoromethyl-benzamide (700 mg, 1.34 mmol) in dry DMF (10 ml) at 0° C. is added NaH (60% oil suspension, 64 mg, 1.6 mmol) slowly. The reaction mixture is stirred at room temperature for 30 minutes and then to this reaction mixture t-butyl-isocyanate (0.19 ml, 1.6 mmol) is added. The reaction is stirred at room temperature for 5 hours. The reaction mixture is diluted into 100 ml water, extracted with 80 ml ethyl acetate three times. The organic phase is combined and washed with brine, dried over Na2SO4. The crude product is purified by flash silica gel column to give the title compound as light yellow solid.

reactant | N—[3-(7-amino-2-methylsulfanyl-pyrido[2,3-d]pyrimidin-6-yl)-2,4-dichloro-phenyl]-3-trifluoromethyl-benzamide | 1.34 mmol, 700 mg | NC=1C(=CC2=C(N=C(N=C2)SC)N1)C=1C(=C(C=CC1Cl)NC(C1=CC(=CC=C1)C(F)(F)F)=O)Cl | C22H14Cl2F3N5OS
reactant | NaH | 1.6 mmol, 64 mg | [H-].[Na+]
reactant | t-butyl-isocyanate | 1.6 mmol, 0.19 ml | C(C)(C)(C)N=C=O | C5H9NO
reactant | water | 100 ml | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | N—{3-[7-(3-tert-butyl-ureido)-2-methylsulfanyl-pyrido[2,3-d]pyrimidin-6-yl]-2,4-dichloro-phenyl}-3-trifluoromethyl-benzamide | C(C)(C)(C)NC(NC=1C(=CC2=C(N=C(N=C2)SC)N1)C=1C(=C(C=CC1Cl)NC(C1=CC(=CC=C1)C(F)(F)F)=O)Cl)=O | C27H23Cl2F3N6O2S
